US07632838B2
2-{4-[(4-tert-butylphenyl)sulfonyl]piperidin-1-yl}quinoline
Using the procedure from Example 7A, 4-[(4-tert-butylphenyl)sulfonyl]piperidine (150 mg, 0.53 mmol) was reacted with 2-chloroquinoline (175 mg, 1.06 mmol), DIEA (0.37 ml, 2.12) and 1,4-dioxane (0.2 ml) at 185° C. to afford the title compound (39 mg), a white solid, in 18% yield.

reactant | 4-[(4-tert-butylphenyl)sulfonyl]piperidine | 0.53 mmol, 150 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C15H23NO2S
reactant | 2-chloroquinoline | 1.06 mmol, 175 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | DIEA | 0.37 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-{4-[(4-tert-butylphenyl)sulfonyl]piperidin-1-yl}quinoline | 39 mg, 18% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C24H28N2O2S
